US05773448
1-(2-Hydroxyethyl)-3-methylthio-3-phenylmethyl-1,3-dihydro-2H-indol-2-one:
Prepared from 3-methylthio-3-phenylmethyl-1,3-dihydro-2H-indol-2-one and 2-(2-chloroethoxy)tetrahydro-2H-pyran as described in Example 1.

reactant | 3-methylthio-3-phenylmethyl-1,3-dihydro-2H-indol-2-one | CSC1(C(NC2=CC=CC=C12)=O)CC1=CC=CC=C1 | C16H15NOS
reactant | 2-(2-chloroethoxy)tetrahydro-2H-pyran | ClCCOC1OCCCC1 | C7H13ClO2
product | 1-(2-Hydroxyethyl)-3-methylthio-3-phenylmethyl-1,3-dihydro-2H-indol-2-one | OCCN1C(C(C2=CC=CC=C12)(CC1=CC=CC=C1)SC)=O | C18H19NO2S
